US07888376B2
(S)-1-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-3-(2,2-difluoro-3-hydroxypropyl)urea (12 mg, 0.027 mmol), prepared as described in Procedures 3, 5, 6, 7 and 8, in THF (0.5 mL) was added NaH (4 mg, 60% in mineral oil, 0.1 mmol). After 2 min, tert-butyl 2-bromoacetate (6 mg, 0.04 mmol) was added. The reaction mixture was stirred for 15 min, filtered and concentrated in vacuo. The residue was purified by preparative HPLC Shimadzu-Phenomenex Luna C18 column, 21.2×100 mm eluting with 10-90% CH3CN (90% in H2O, 0.1% TFA) gradient over 15 min with flow rate 20 mL/min and UV detection at 220 nm to give (S)-tert-butyl 2-(3-(3-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)-2,2-difluoropropoxy)acetate as a white solid (8 mg, 43% yield). LCMS RT=4.12 min, [M+H] 694.35 (LCMS Method 1) NMR: 500 MHz 1H (CDCl3) 8.25 ppm, 1H, m; 7.67 ppm, 1H, m; 7.50 ppm, 1H, m; 7.17 ppm, 1H, d; 7.06 ppm, 6H, m; 6.89 ppm, 1H, m; 6.61 ppm, 2H, m; 5.87 ppm, 1H, t; 4.35 ppm, 1H, d; 4.07 ppm, 1H, d; 3.95 ppm, 1H, d; 3.88 ppm, 1H, m; 3.74 ppm, 2H, m; 3.55 ppm, 2H, m; 1.42 ppm, 9H, m.

reactant | (S)-1-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-3-(2,2-difluoro-3-hydroxypropyl)urea | 0.027 mmol, 12 mg | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(=O)NCC(CO)(F)F | C25H21ClF7N3O3
reactant | NaH | 0.1 mmol, 4 mg | [H-].[Na+]
reactant | tert-butyl 2-bromoacetate | 0.04 mmol, 6 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 2-(3-(3-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)-2,2-difluoropropoxy)acetate | 8 mg, 43% yield | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(NCC(COCC(=O)OC(C)(C)C)(F)F)=O | C31H31ClF7N3O5
